US04363912
A mixture of 2-cyclopropyl-3-(3-pyridylmethyl)indole (1.98 g), methacrylate (2.06 g) and "Triton B" in methanol (0.5 ml) in tetrahydrofuran (50 ml) was heated under reflux for 4 hours and then evaporated. The residue was dissolved in ethyl acetate and the solution was washed with water and dried (Na2SO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution with a mixture of chloroform and petrol (b.p. 40°-60°) (3:1) gave 1-(2-carbomethoxyethyl)-2-cyclopropyl-3-(3-pyridylmethyl)indole as an oil (1.20 g).

reactant | 2-cyclopropyl-3-(3-pyridylmethyl)indole | 1.98 g | C1(CC1)C=1NC2=CC=CC=C2C1CC=1C=NC=CC1 | C17H16N2
reactant | methacrylate | 2.06 g | C(C(=C)C)(=O)[O-]
reactant | methanol | 0.5 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(2-carbomethoxyethyl)-2-cyclopropyl-3-(3-pyridylmethyl)indole | 1.20 g | C(=O)(OC)CCN1C(=C(C2=CC=CC=C12)CC=1C=NC=CC1)C1CC1 | C21H22N2O2
